data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4510,5144,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C:11]([C:12]([CH3:13])=[O:14])=[N+:15]([CH3:16])[C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([C:12]([CH3:13])=[O:14])[N:15]([CH3:16])[C:17]1([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23],water,298.15,44.04553993326751,-9.191963726143417
1858,2061,[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([Cl:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1.[N:13]#[C:14][C:15]([C:16]#[N:17])=[NH+:18][CH-:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([Cl:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:15]([C:14]#[N:13])([C:16]#[N:17])[NH:18][CH:19]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,16.30317631130675,-24.10509066970427
1677,1849,[CH3:13][NH:14][C:15](=[O:16])[CH-:17][O+:18]=[C:19]([C:20]#[N:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][O:2][CH:3]1[C:4]#[C:5][C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][O:2][CH:3]1[C:4]2=[C:5]([C:6]([Cl:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:19]([C:20]#[N:21])([C:22](=[O:23])[NH:24][CH3:25])[O:18][CH:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,10.75035629930298,-72.3170359726668
5223,5926,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[O+:22][C-:23]([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:23]([C:24]([CH3:25])=[O:26])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[O:22][C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,15.953554669695478,-18.649261259631047
3400,3867,[CH3:9][N-:10][O+:11]=[C:12]([C:13]#[N:14])[C:15](=[O:16])[NH:17][CH3:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[N:10]([CH3:9])[O:11][C:12]1([C:13]#[N:14])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,9.14586625777036,-43.852435384757264
3922,4486,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([NH+:12]=[CH:13][C:14]([CH3:15])=[O:16])[C:17](=[O:18])[NH:19][CH3:20]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:17](=[O:18])[NH:19][CH3:20])[NH:12][CH:13]1[C:14]([CH3:15])=[O:16],water,298.15,20.38356242108623,-8.746831784125488
4151,4754,[CH3:10][O:11][C:12](=[O:13])[N-:14][NH+:15]=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:14]([C:12]([O:11][CH3:10])=[O:13])[NH:15][CH:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,28.63494030103936,1.1749693287066083
3418,3888,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH2-:9][NH+:10]=[C:11]([C:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[CH2:9][NH:10][C:11]2([C:12]#[N:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,3.785358796592297,-21.553188335626245
904,977,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([N+:18]#[N:19])[C:20](=[O:21])[NH:22][CH3:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[N:19]=[N:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[C:20](=[O:21])[NH:22][CH3:23],water,298.15,34.21103496508743,-3.961407319090856
4990,5678,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[N-:19][NH+:20]=[C:21]([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:19]([C:17]([O:16][CH3:15])=[O:18])[NH:20][C:21]2([C:22]#[N:23])[C:24](=[O:25])[O:26][CH3:27],water,298.15,24.123827248833305,6.913140833551831
2836,3151,[CH3:24][NH:25][C:26](=[O:27])[C:28]([C:29](=[O:30])[NH:31][CH3:32])=[N+:33]([CH3:34])[N-:35][C:36](=[O:37])[O:38][CH3:39].[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([Cl:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([Cl:13])([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:26]([NH:25][CH3:24])=[O:27])([C:29](=[O:30])[NH:31][CH3:32])[N:33]([CH3:34])[N:35]2[C:36](=[O:37])[O:38][CH3:39],water,298.15,33.947259263269785,-17.498853478572762
